US04876343
A solution of 5 g of (S)-5-(2-methylpropyl)-2,4-pyrrolidinedione in 250 ml of ethanol is treated with 2 g of Raney nickel (washed to neutral) and exposed to hydrogen gas at 50 pounds per square inch (psi). After 5 hours, hydrogen uptake ceases, the catalyst is filtered and the filtrate evaporated to a gum. The gum is taken up in chloroform and the chloroform is evaporated. The resulting gum is dissolved in chloroform, filtered through a 250 ml bed of silica gel in chloroform and eluted with chloroform-methanol (96:4) to afford 3.2 g of (4S-cis)-4-hydroxy-5-(2-methylpropyl)-2-pyrrolidinone after crystallization from 12 ml of hot ethyl acetate, 120 ml isopropyl ether and gradual cooling to 10° C.; mp 71°-73° C. [α]D23 =-19° (C=0.7% chloroform).

reactant | (S)-5-(2-methylpropyl)-2,4-pyrrolidinedione | 5 g | CC(C[C@H]1C(CC(N1)=O)=O)C | C8H13NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Raney nickel | 2 g | [Ni] | Ni
product | (4S-cis)-4-hydroxy-5-(2-methylpropyl)-2-pyrrolidinone | 3.2 g | O[C@H]1CC(N[C@H]1CC(C)C)=O | C8H15NO2
